US04783530
6-Amino-3-methyl-1-n-propyluracil (10.46 g, 57.8 mmol) was dissolved in 10 ml of acetic acid at 90° C. Then, with stirring, a solution of sodium nitrite (4.19 g, 60.8 mmol) in 100 ml of water was added in 10 ml portions over 5 minutes. A purple color formed immediately followed by a purple precipitate. The mixture was cooled in the freezer for 20 minutes and then the precipitate was collected by vacuum filtration, washed with water (2×30 ml) and acetone (2×10 ml), and air-dried to give 6-amino-3-methyl-5-nitroso-1-n-propyluracil as purple needles (10.02 g, 83%). 1H NMR (DMSO-d6 +D2O) δ0.89 (t, J=8 Hz, 3 H), 1.55 (sextet, J=8 Hz, 2 H), 3.27 (s, 3 H), 3.80 (t, J=8 Hz, 2 H).

reactant | 6-Amino-3-methyl-1-n-propyluracil | 57.8 mmol, 10.46 g | NC1=CC(N(C(N1CCC)=O)C)=O | C8H13N3O2
reactant | sodium nitrite | 60.8 mmol, 4.19 g | N(=O)[O-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 6-amino-3-methyl-5-nitroso-1-n-propyluracil | 10.02 g, 83% | NC1=C(C(N(C(N1CCC)=O)C)=O)N=O | C8H12N4O3
